US06969713B2
i) 2-Chloro-N-(3-fluoro-2-methyl-phenyl)acetamide
The subtitle compound was prepared from 3-fluoro-2-methylaniline (0.232 g) and chloroacetyl chloride (0.164 ml) by the method of Example 33 step (iii) as a beige solid. Yield: 0.3 g

reactant | 3-fluoro-2-methylaniline | 0.232 g | FC=1C(=C(N)C=CC1)C | C7H8FN
reactant | chloroacetyl chloride | 0.164 ml | ClCC(=O)Cl | C2H2Cl2O
product | 2-Chloro-N-(3-fluoro-2-methyl-phenyl)acetamide | ClCC(=O)NC1=C(C(=CC=C1)F)C | C9H9ClFNO
